US08257620B2
The reduction of the diol was accomplished by taking 5.44 g of 9,10-bis(pentafluorophenyl)-9,10-dihydro-9,10-anthracenediol in 50 mL of acetic acid and refluxing it with 9 g of potassium iodide and 9 g of sodium hypophosphite for 4 hours. After cooling, white crystals were filtered off. The crude product was recrystallized using a 1:1 mixture of toluene and hexane to yield 2.00 g of 9,10-bis(pentafluorophenyl)anthracene with a melting point of 337-338° C.

reactant | 9,10-bis(pentafluorophenyl)-9,10-dihydro-9,10-anthracenediol | 5.44 g | FC1=C(C(=C(C(=C1C1(C2=CC=CC=C2C(C=2C=CC=CC12)(O)C1=C(C(=C(C(=C1F)F)F)F)F)O)F)F)F)F | C26H10F10O2
reactant | potassium iodide | 9 g | [I-].[K+]
reactant | sodium hypophosphite | 9 g | [PH2](=O)[O-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 9,10-bis(pentafluorophenyl)anthracene | 2.00 g | FC1=C(C(=C(C(=C1C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C26H8F10
